US07186749B2
Step 3: Methyl 2-{[6-(1-benzyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}-3-phenylpropanoate.
In a similar manner as described in step 6 of Example 1, the title compound was prepared from 6-(1-benzyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthol (0.140 g, 0.373 mmol), prepared in the previous step, 3-phenyl-2-trifluoromethanesulfonyloxypropionic acid methyl ester (0.175 g, 0.560 mmol) and cesium carbonate (0.243 g, 0.746 mmol). Purification on a Biotage FlashElute™ system with a KP-Sil Flash 40+M column (90 g Silica Gel, 60 Å) using 20% to 50% methylene chloride in hexane as the eluent gave methyl 2-{[6-(1-benzyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}-3-phenylpropanoate as a white solid (0.175 g, 88%), mp 57–62° C. Elemental Analysis for C37H31NO3 Calc'd: C, 82.66; H, 5.81; N, 2.61. Found: C, 82.39; H, 5.88; N, 2.46.

reactant | 6-(1-benzyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthol | 0.373 mmol, 0.140 g | C(C1=CC=CC=C1)N1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)O | C27H21NO
reactant | 3-phenyl-2-trifluoromethanesulfonyloxypropionic acid methyl ester | 0.560 mmol, 0.175 g | COC(C(CC1=CC=CC=C1)OS(=O)(=O)C(F)(F)F)=O | C11H11F3O5S
reactant | cesium carbonate | 0.746 mmol, 0.243 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | methyl 2-{[6-(1-benzyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}-3-phenylpropanoate | 0.175 g, 88% | C(C1=CC=CC=C1)N1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)OC(C(=O)OC)CC1=CC=CC=C1 | C37H31NO3
